US04612321
In 6 ml of thionyl chloride was suspended 5.0 g of piperonylic acid. The suspension was refluxed for 8 hours. Excess volume of thionyl chloride was evaporated off under reduced pressure to give crude crystals of piperonylic acid chloride.

reactant | piperonylic acid | 5.0 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
product | piperonylic acid chloride | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
